US08039622B2
Step A: Methyl(3S,4R)-4-(4-chlorophenyl)-1-(1,3-thiazol-2-yl)pyrrolidine-3-carboxylate
The product of Step A in Preparation 17, methyl (3S,4R)-4-(4-chlorophenyl)pyrrolidine-3-carboxylate (0.46 g, 1.92 mmol) was dissolved in 1,4-dioxane (2 ml). DIPEA (1.34 ml, 7.67 mmol) and 2-bromo-1,3-thiazole (1.57 g, 9 6 mmol) were added. The reaction was conducted at 180° C. for 20 minutes with microwave. Then, the reaction mixture was concentrated in vacuo. The obtained residue was diluted with EtOAc, washed with water and purified by column chromatography (eluent: EtOAc/Hex=1/3) to give the title compound (0.15 g, 25%).

reactant | methyl (3S,4R)-4-(4-chlorophenyl)pyrrolidine-3-carboxylate | 1.92 mmol, 0.46 g | ClC1=CC=C(C=C1)[C@H]1[C@@H](CNC1)C(=O)OC | C12H14ClNO2
reactant | DIPEA | 7.67 mmol, 1.34 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-bromo-1,3-thiazole | 6 mmol, 1.57 g | BrC=1SC=CN1 | C3H2BrNS
solvent | 1,4-dioxane | 2 ml | O1CCOCC1 | C4H8O2
product | Methyl(3S,4R)-4-(4-chlorophenyl)-1-(1,3-thiazol-2-yl)pyrrolidine-3-carboxylate | 0.15 g, 25% | ClC1=CC=C(C=C1)[C@H]1[C@@H](CN(C1)C=1SC=CN1)C(=O)OC | C15H15ClN2O2S
